US04680391
A mixture of 56 mg (0.33 mM) 4-acetoxy-3-propylazetidin-2-one, 1 ml acetic anhydride and 1 ml pyridine was stirred at 100° in a sealed tube for 24 hours. After concentrating in vacuo the residue was chromatographed on silica gel in hexane/ethyl acetate, to yield 16 mg (23%) 1-acetyl-4-acetoxy-3-n-propyl-azetidine-2-one.

reactant | 4-acetoxy-3-propylazetidin-2-one | 0.33 mM, 56 mg | C(C)(=O)OC1C(C(N1)=O)CCC | C8H13NO3
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-4-acetoxy-3-n-propyl-azetidine-2-one | 16 mg, 23% | C(C)(=O)N1C(C(C1OC(C)=O)CCC)=O | C10H15NO4
